US04584293
1-[7,8-Methylenedioxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane
The title compound is prepared from 1-[7,8-methylenedioxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-chloropropane and 6,7-dimethoxy-2-methylamino-1,2,3,4-tetrahydronaphthalene analogously to Example 1. Mp: 158° C. (decomp.).

reactant | 1-[7,8-methylenedioxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-chloropropane | C1OC2=CC3=C(CC(N(CC3)CCCCl)=O)C=C2O1 | C14H16ClNO3
reactant | 6,7-dimethoxy-2-methylamino-1,2,3,4-tetrahydronaphthalene | COC=1C=C2CCC(CC2=CC1OC)NC | C13H19NO2
product | 1-[7,8-Methylenedioxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | C1OC2=CC3=C(CC(N(CC3)CCCN(C3CC4=CC(=C(C=C4CC3)OC)OC)C)=O)C=C2O1 | C27H34N2O5
